US06596734B1
N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide.
A solution of N-(3-Benzyloxy-4-nitrophenethyl)-3,5-dibromo-4-methoxy-phenylacetamide (3.49 g, 0.006 mol) and tin (II) chloride dihydrate (16.10 g, 0.071 mol) in a mixture of ethanol (300 mL) and 1.2 N HCl (150 mL) was refluxed for 3h, cooled and concentrated. Tin salts were dissolved in 1N NaOH solution. The reaction mixture was extracted with methylene chloride 3 times. The extracts were dried over Na2SO4 and concentrated. A residue was crystallized from ethyl acetate-hexanes mixture. Yield 1.57 g (47.4%).

reactant | N-(3-Benzyloxy-4-nitrophenethyl)-3,5-dibromo-4-methoxy-phenylacetamide | 0.006 mol, 3.49 g | C(C1=CC=CC=C1)OC=1C=C(CCNC(CC2=CC(=C(C(=C2)Br)OC)Br)=O)C=CC1[N+](=O)[O-] | C24H22Br2N2O5
reactant | tin (II) chloride dihydrate | 0.071 mol, 16.10 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | HCl | 1.2 N, 150 mL | Cl | ClH
product | N-[2-(4-amino-3-benzyloxy-phenyl)-ethyl]-2-(3,5-dibromo-4-methoxy-phenyl)-acetamide | NC1=C(C=C(C=C1)CCNC(CC1=CC(=C(C(=C1)Br)OC)Br)=O)OCC1=CC=CC=C1 | C24H24Br2N2O3
